US09227962B2
To a mixture of iodobenzene (204 mg, 1 mmol), sodium azide (130 mg, 2 mmol), sodium carbonate (53 mg, 0.5 mmol), CuI (19 mg, 0.1 mmol), sodium ascorbate (20 mg) and N,N′-dimethylethylenediamine (18 ul, 0.2 mmol) in EtOH (1.5 ml) and water (0.5 ml) were added 5-((trimethylsilyl)ethynyl)indolin-2-one (115 mg, 0.5 mmol), and stirred at 80° C. for 2 h. After cooling to ambient temp, EtOH was removed under reduced pressure. The residue was suspended in EtOH and stirred for 1 h at rt and filtered. The filtrate was washed with water and hexane and dried under vacuo to give 5-(1-phenyl-1H-1,2,3-triazol-4-yl)indolin-2-one (106 mg).

reactant | iodobenzene | 1 mmol, 204 mg | IC1=CC=CC=C1 | C6H5I
reactant | sodium azide | 2 mmol, 130 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium carbonate | 0.5 mmol, 53 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium ascorbate | 20 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | N,N′-dimethylethylenediamine | 0.2 mmol, 18 ul | CNCCNC | C4H12N2
reactant | 5-((trimethylsilyl)ethynyl)indolin-2-one | 0.5 mmol, 115 mg | C[Si](C)(C)C#CC=1C=C2CC(NC2=CC1)=O | C13H15NOSi
solvent | EtOH | 1.5 ml | CCO | C2H6O
solvent | water | 0.5 ml | O | H2O
catalyst | CuI | 0.1 mmol, 19 mg | [Cu]I
product | 5-(1-phenyl-1H-1,2,3-triazol-4-yl)indolin-2-one | 106 mg | C1(=CC=CC=C1)N1N=NC(=C1)C=1C=C2CC(NC2=CC1)=O | C16H12N4O
